US06248740B1
Production of ethyl 2-[3-chloro-6-[3-[4-(diphenylmethyl) piperazino]propoxy]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate dihydrochloride
1.0 g of 4-(diphenylmethyl)-1-piperazinepropanol was dissolved in 10 ml of N,N-dimethylformamide; 142 mg of a 60% dispersion of sodium hydride in mineral oil was added, followed by stirring at room temperature under reduced pressure for 40 minutes. To the reaction mixture, 973 mg of ethyl 2-(3,6-dichloroimidazo[1,2-b]pyridazin-2-yl)-2-methylpropionate was added, followed by stirring at 0° C. for 2 hours. Ice water was added, followed by extraction with ethyl acetate; the extract was washed with saturated saline and dried with magnesium sulfate. The dry product was concentrated under reduced pressure; the residue was subjected to silica gel column chromatography and eluted with hexane:ethyl acetate:triethylamine (50:50:1). The desired fraction was collected and concentrated under reduced pressure; the crystal precipitated was dissolved in 5 ml of ethyl acetate; 1.01 ml of a 4 N hydrogen chloride solution in ethyl acetate acid was added, followed by concentration again. The residue was recrystallized from methanol, collected by filtration, washed with ethyl acetate and dried to yield 424 mg of the title compound.

reactant | 4-(diphenylmethyl)-1-piperazinepropanol | 1.0 g | C1(=CC=CC=C1)C(N1CCN(CC1)CCCO)C1=CC=CC=C1 | C20H26N2O
reactant | sodium hydride | [H-].[Na+]
reactant | ethyl 2-(3,6-dichloroimidazo[1,2-b]pyridazin-2-yl)-2-methylpropionate | 973 mg | ClC1=C(N=C2N1N=C(C=C2)Cl)C(C(=O)OCC)(C)C | C12H13Cl2N3O2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl 2-[3-chloro-6-[3-[4-(diphenylmethyl) piperazino]propoxy]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate dihydrochloride | 424 mg | Cl.Cl.ClC1=C(N=C2N1N=C(C=C2)OCCCN2CCN(CC2)C(C2=CC=CC=C2)C2=CC=CC=C2)C(C(=O)OCC)(C)C | InChI=1S/C32H38ClN5O3.2ClH/c1-4-40-31(39)32(2,3)29-30(33)38-26(34-29)16-17-27(35-38)41-23-11-18-36-19-21-37(22-20-36)28(24-12-7-5-8-13-24)25-14-9-6-10-15-25;;/h5-10,12-17,28H,4,11,18-23H2,1-3H3;2*1H
